US07968552B2
A 1 M sodium hydroxide aqueous solution (5 ml) was added to a mixture of methyl 3′-({4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-4-biphenylcarboxylate (196 mg), methanol (5 ml) and THF (5 ml), followed by stirring for 1 hour with heating at 60° C. A 1 M hydrochloric acid (7 ml) was added to the reaction mixture, followed by stirring at room temperature. The solid precipitated was collected by filtration and dried by heating under a reduced pressure to obtain 3′-({4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-4-biphenylcarboxylic acid (176 mg) as a white solid.

reactant | sodium hydroxide | 1 M, 5 ml | [OH-].[Na+]
reactant | methyl 3′-({4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-4-biphenylcarboxylate | 196 mg | O=C1N(OC(N1)=O)CC1=CC=C(OCC=2C=C(C=CC2)C2=CC=C(C=C2)C(=O)OC)C=C1 | C24H20N2O6
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrochloric acid | 1 M, 7 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3′-({4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-4-biphenylcarboxylic acid | 176 mg | O=C1N(OC(N1)=O)CC1=CC=C(OCC=2C=C(C=CC2)C2=CC=C(C=C2)C(=O)O)C=C1 | C23H18N2O6
